US06008229
The solution of 4-chloro-8-hydroxy-2-methylquinoline (2.0 g), imidazole (3.52 g) in dioxane (20 ml) was refluxed for 18 hours. The cooled reaction mixture was added chloroform and aqueous sodium bicarbonate solution. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ether to give 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline (1.99 g) as colorless crystals.

reactant | 4-chloro-8-hydroxy-2-methylquinoline | 2.0 g | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
reactant | imidazole | 3.52 g | N1C=NC=C1 | C3H4N2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline | 1.99 g | OC=1C=CC=C2C(=CC(=NC12)C)N1C=NC=C1 | C13H11N3O
